US07541372B2
2-Chloro-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (1.92 mg, 8.83 mmol) was converted using 2-chloroisonicotinic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 1.41 mg, 47%) which was obtained as a white solid. MS: m/e=339.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 8.83 mmol, 1.92 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-chloroisonicotinic acid | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
product | 2-Chloro-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 1.41 mg, 47% | ClC1=NC=CC(=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN4O2
